US07211572B2
To a solution of 3-benzyloxy-4-oxo-4H-pyran-2-carboxylic acid (0.4 g) prepared according to the method described in references (JP-A-2-502281 (WO88/06588), J. Med. Chem., 1999, 42, 4814–4823) in chloroform (30 ml) were added oxalyl chloride (0.21 ml) and dimethylformamide (0.01 ml), and the mixture was stirred at room temperature for 30 min. The reaction solvent was evaporated under reduced pressure, toluene was added, the mixture was concentrated and dissolved in chloroform (5 ml). 3,4-Dichlorobenzylamine (0.23 ml) and triethylamine (0.34 ml) were added successively under ice-cooling, and the mixture was stirred under ice-cooling for 20 min. 5% Aqueous potassium hydrogen sulfate solution was added to the obtained reaction mixture and the mixture was extracted with. chloroform. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1–1:8) to give N-(3,4-dichlorobenzyl)-3-benzyloxy-4-oxo-4H-pyran-2-carboxamide (0.43 g).

reactant | 3-benzyloxy-4-oxo-4H-pyran-2-carboxylic acid | 0.4 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C(=O)O | C13H10O5
reactant | oxalyl chloride | 0.21 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3,4-dichlorobenzyl)-3-benzyloxy-4-oxo-4H-pyran-2-carboxamide | 0.43 g | ClC=1C=C(CNC(=O)C=2OC=CC(C2OCC2=CC=CC=C2)=O)C=CC1Cl | C20H15Cl2NO4
